US07163937B2
The benzyl (S)-1-((1S,2R,4R)-4-amino-2-ethylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (assumed 2.2 mmol) was dissolved in 1,2-dichloroethane (27 mL) and the resulting solution was charged successively with acetic acid (0.27 mL), acetone, and NaHB(OAc)3 (1.15 g) before being heated to 50° C. for 18 h. The reaction was concentrated in vacuo and the residue was dissolved in acetonitrile. The resulting solution was charged successively with formaldehyde and sodium cyanoborohydride. The reaction was concentrated in vacuo and purified via flash chromatography to afford benzyl (S)-1-((1S,2R,4R)-2-ethyl-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (607 mg). MS found: (M+H)+=416.3.

reactant | benzyl (S)-1-((1S,2R,4R)-4-amino-2-ethylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 2.2 mmol | N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CC | C20H29N3O3
reactant | acetic acid | 0.27 mL | C(C)(=O)O | C2H4O2
reactant | acetone | CC(=O)C | C3H6O
solvent | 1,2-dichloroethane | 27 mL | ClCCCl | C2H4Cl2
product | benzyl (S)-1-((1S,2R,4R)-2-ethyl-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 607 mg | C(C)[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C24H37N3O3
